* Comparator
.subckt comparator N001 N002 0 N006 N005 Vout
M1 N001 N003 N003 N001 pfet l=180n w=240n m=1
M2 N001 N003 N004 N001 pfet l=200n w=240n m=1
M3 N003 N005 N008 0 nfet l=200n w=240n m=1
M4 N004 N006 N008 0 nfet l=200n w=240n m=1
M5 N001 N004 N009 N001 pfet l=200n w=240n m=1
M6 N009 N007 0 0 nfet l=200n w=240n m=1
M7 N008 N007 0 0 nfet l=200n w=240n m=1
M8 N002 N009 N010 N002 pfet l=200n w=240n
M9 N002 N010 Vout N002 pfet l=200n w=240n
M10 N010 N009 0 0 nfet l=200n w=240n
M11 Vout N010 0 0 nfet l=200n w=240n
C1 Vout 0 1f
M12 N001 N001 N007 0 nfet l=0.2u w=0.24u
M13 N007 N001 0 0 nfet l=0.2u w=2.5u
.ends comparator



